US04381313
527 g of 4-isobutylbenzyl chloride, 153 g of sodium cyanide and 720 ml of dimethylsulfoxide are agitated for 6 hours at 40° C. The mixture is cooled and then diluted with water. An oily layer separates and is extracted with ether. The ether solution is subjected to fractionation and yields 367 g of 4-isobutylphenyl acetonitrile.

reactant | 4-isobutylbenzyl chloride | 527 g | C(C(C)C)C1=CC=C(CCl)C=C1 | C11H15Cl
reactant | sodium cyanide | 153 g | [C-]#N.[Na+]
reactant | dimethylsulfoxide | 720 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-isobutylphenyl acetonitrile | 367 g | C(C(C)C)C1=CC=C(C=C1)CC#N | C12H15N
